US06706663B2
Preparation of 3-(5-Methyl-1,3,4-oxadiazol-2-yl)-5-nitro-1,2-benzisothiazole
To a mixture of 1-acetyl-2-[(5-nitro-1,2-benzisothiazol-3-yl)carbonyl]hydrazine(4.55 g, 0.0163 mol) and acetonitrile at room temperature is added phosphorous oxychloride (14.9 g, 0.0972 mol). The resultant mixture is heated to reflux, stirred two hours, cooled to room temperature and filtered to afford the title compound as an off-white solid (mp>250° C.) which is identified by NMR spectral analysis.

reactant | 1-acetyl-2-[(5-nitro-1,2-benzisothiazol-3-yl)carbonyl]hydrazine | 0.0163 mol, 4.55 g | C(C)(=O)NNC(=O)C1=NSC2=C1C=C(C=C2)[N+](=O)[O-] | C10H8N4O4S
reactant | phosphorous oxychloride | 0.0972 mol, 14.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(5-Methyl-1,3,4-oxadiazol-2-yl)-5-nitro-1,2-benzisothiazole | CC1=NN=C(O1)C1=NSC2=C1C=C(C=C2)[N+](=O)[O-] | C10H6N4O3S
